US04988381
10.0 g (0.088 mol) of 4-amino-5-methyl-2,4-dihydro-3H-1, 2,4-triazol-3-one are dissolved in 50 ml of dry pyridine, the mixture is cooled to -10° C., and 32.7 g (0.12 mol) of 2-trifluoromethoxy-benzenesulphonyl chloride are added. The reaction mixture is allowed to reach room temperature approximately 20° C.) and stirred for approximately 12 hours. After the mixture has been concentrated, the residue is taken up in methylene chloride and shaken with 1N hydrochloric acid and then with water. The organic phase is dried with sodium sulfate and filtered. The solvent is carefully distilled off from the filtrate under a water pump vacuum. 23.1 g (80% of theory) of 4-(2-trifluoromethoxy-phenylsulphonylamino)-5-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one are obtained as an oily residue.

reactant | 4-amino-5-methyl-2,4-dihydro-3H-1, 2,4-triazol-3-one | 0.088 mol, 10.0 g | NN1C(NN=C1C)=O | C3H6N4O
reactant | 2-trifluoromethoxy-benzenesulphonyl chloride | 0.12 mol, 32.7 g | FC(OC1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-(2-trifluoromethoxy-phenylsulphonylamino)-5-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 23.1 g, 80% | FC(OC1=C(C=CC=C1)S(=O)(=O)NN1C(NN=C1C)=O)(F)F | C10H9F3N4O4S
